US08455477B2
3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine (30.0 mg, 0.119 mmol), 4-iodo-5-methyl-1-phenyl-1H-pyrazole (67.6 mg, 0.238 mmol), and bis(triphenylphosphine)palladium(II) chloride (8.4 mg, 0.012 mmol) were combined into one vial fitted with a Teflon septum. The vial was flushed with nitrogen and tetra-n-butylammonium fluoride (0.36 mL, 0.36 mmol, 1M in THF) and tetrahydrofuran (0.2 mL) were added. After sparging with nitrogen for 5 minutes, the reaction was heated to 80° C. for one hour. The reaction was cooled to ambient temperature, then diluted with ethyl acetate, and washed with saturated aqueous sodium bicarbonate. The organic layer was separated, and the aqueous layer was back extracted with ethyl acetate two times. The combined organic layers were dried over sodium sulfate, filtered and concentrated. The residue was purified by preparative HPLC reverse phase (C-18), eluting with acetonitrile/water+0.05% TFA. The fractions containing product were combined and diluted in ethyl acetate, then washed with aqueous sodium bicarbonate and dried over sodium sulfate. The solution was filtered and concentrated under reduced pressure to give 4-methoxy-3-[(5-methyl-1-phenyl-1H-pyrazol-4-yl)ethynyl]-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine

reactant | 3-ethynyl-4-methoxy-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | 0.119 mmol, 30.0 mg | C(#C)C=1C=NN2C1C(=CC(=C2)C=2C=NN(C2)C)OC | C14H12N4O
reactant | 4-iodo-5-methyl-1-phenyl-1H-pyrazole | 0.238 mmol, 67.6 mg | IC=1C=NN(C1C)C1=CC=CC=C1 | C10H9IN2
reactant | tetra-n-butylammonium fluoride | 0.36 mmol, 1M, 0.36 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.012 mmol, 8.4 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | tetrahydrofuran | 0.2 mL | O1CCCC1 | C4H8O
product | 4-methoxy-3-[(5-methyl-1-phenyl-1H-pyrazol-4-yl)ethynyl]-6-(1-methyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridine | COC=1C=2N(C=C(C1)C=1C=NN(C1)C)N=CC2C#CC=2C=NN(C2C)C2=CC=CC=C2 | C24H20N6O
